US05910506
Synthesis of 2-Carbamoyloxymethyl-4-(3-chlorophenylthio)-5-isopropyl-1-methylimidazole (Compound I-59)
In 5 ml of dry tetrahydrofuran was dissolved 200 mg (0.67 mmol)of [4-(3-chlorophenylthio)-5-isopropyl-1-methyl-1H-imidazol-2-yl]methanol (Compound I-38), and 190 mg (1.0 mmol) of trichloroacetylisocyanate was added to the mixture with cooling at -40° C. After 10 minutes, the mixture was warmed to 0° C., and stirred at the same temperature for 10 minutes To the reaction mixture, ice-water was added, and then, the mixture was neutralized with a saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with water and dried over sodium sulfate. The solvent was concentrated under reduced pressure, and to the residue was added 5 ml of methanol, 0.5 ml of water and 0.5 ml of triethylamine. The mixture was stirred at 50° C. for 30 minutes. To the reaction mixture was added water, extracted with methylene chloride, the extract was washed with water and dried over sodium sulfate. The solvent was concentrated under reduced pressure, and the residue was purified by silica gel chromatography (ethyl acetate). The product was recrystallized from ethyl acetate/isopropyl ether to give 180 mg of the target compound (Compound I-59)(yield 79%). mp 145-146° C.

reactant | [4-(3-chlorophenylthio)-5-isopropyl-1-methyl-1H-imidazol-2-yl]methanol | 0.67 mmol, 200 mg | ClC=1C=C(C=CC1)SC=1N=C(N(C1C(C)C)C)CO | C14H17ClN2OS
reactant | trichloroacetylisocyanate | 1.0 mmol, 190 mg | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-Carbamoyloxymethyl-4-(3-chlorophenylthio)-5-isopropyl-1-methylimidazole | 180 mg, yield 79% | C(N)(=O)OCC=1N(C(=C(N1)SC1=CC(=CC=C1)Cl)C(C)C)C | C15H18ClN3O2S
